US07674801B2
1-Ethyl-3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-4-(4-(trifluoromethyl)thiazol-2-yl)pyridin-2-yl)urea
1-(5-bromo-4-(4-(trifluoromethyl)thiazol-2-yl)pyridin-2-yl)-3-ethylurea (200 mg, 0.51 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (386 mg, 1.52 mmol), potassium acetate (149 mg, 1.52 mmol), and 1,1′-Bis(diphenylphosphino)ferrocene-palladium dichloride (20.72 mg, 0.03 mmol) were mixed in a microwave vial and degassed with argon. DMSO (4 mL) was added and the solution was heated at 90° C. for 5 hour (oil bath). The reaction was partitioned between water and ethyl acetate. The layers were separated, and the organic layer was back extracted three times with ethyl acetate. The organic layer was combined with the extracts, then washed with water and brine, dried over magnesium sulfate and concentrated to give a light brown solid that was a mixture of the title compound (35%), {6-{[(ethylamino)carbonyl]amino}-4-[4-(trifluoromethyl)-1,3-thiazol-2-yl]pyridin-3-yl}boronic acid (25%) and N-ethyl-N′-{4-[4-(trifluoromethyl)-1,3-thiazol-2-yl]pyridin-2-yl}urea (25%) which was used without further purification. MS (ESP): 443 (M+1) for C18H22BF3N4O3S

reactant | 1-(5-bromo-4-(4-(trifluoromethyl)thiazol-2-yl)pyridin-2-yl)-3-ethylurea | 0.51 mmol, 200 mg | BrC=1C(=CC(=NC1)NC(=O)NCC)C=1SC=C(N1)C(F)(F)F | C12H10BrF3N4OS
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 1.52 mmol, 386 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.52 mmol, 149 mg | C(C)(=O)[O-].[K+]
reactant | {6-{[(ethylamino)carbonyl]amino}-4-[4-(trifluoromethyl)-1,3-thiazol-2-yl]pyridin-3-yl}boronic acid | C(C)NC(=O)NC1=CC(=C(C=N1)B(O)O)C=1SC=C(N1)C(F)(F)F | C12H12BF3N4O3S
reactant | N-ethyl-N′-{4-[4-(trifluoromethyl)-1,3-thiazol-2-yl]pyridin-2-yl}urea | C(C)NC(=O)NC1=NC=CC(=C1)C=1SC=C(N1)C(F)(F)F | C12H11F3N4OS
catalyst | 1,1′-Bis(diphenylphosphino)ferrocene-palladium dichloride | 0.03 mmol, 20.72 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1-Ethyl-3-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-4-(4-(trifluoromethyl)thiazol-2-yl)pyridin-2-yl)urea | 35% | C(C)NC(=O)NC1=NC=C(C(=C1)C=1SC=C(N1)C(F)(F)F)B1OC(C(O1)(C)C)(C)C | C18H22BF3N4O3S
